US04005153
1,2,4-Trichlorophenyl pentachlorocyclopentenone
A mixture of 337 grams of 1,2,4-trichlorophenylheptachlorocyclopentene and 301 grams of concentrated sulfuric acid was stirred and heated at 105° to 124° centigrade for 10 hours. A total of 47 grams of hydrogen chloride was evolved and collected. The reaction mixture was mixed with water, the organic layer was separated and washed with water until neutral, after which it was dried and distilled. The product was collected as a red-orange viscous oil which crystallized on standing. Boiling point was 174°-178° centigrade at 0.4 millimeter of mercury pressure. Yield was 262 grams.

reactant | 1,2,4-trichlorophenylheptachlorocyclopentene | 337 grams | ClC1(C(C=C(C=C1)Cl)Cl)C1(C(C(C(=C1Cl)Cl)(Cl)Cl)(Cl)Cl)Cl | C11H4Cl10
reactant | sulfuric acid | 301 grams | S(O)(O)(=O)=O | H2O4S
reactant | hydrogen chloride | 47 grams | Cl | ClH
product | 1,2,4-Trichlorophenyl pentachlorocyclopentenone | ClC1(C(C=C(C=C1)Cl)Cl)C1(C(C(=C(C1=O)Cl)Cl)(Cl)Cl)Cl | C11H4Cl8O
